US06143743
Part D. A solution of zinc chloride (5.32 g, 39.1 mmol) in anhydrous, freshly-distilled tetrahydrofuran (50 mL) was treated at ambient temperature with a solution of mesitylmagnesium bromide (39.1 mL, 1.0 M, 39.1 mmol) in diethyl ether. After 45 minutes, a separate flask containing a solution of bis(triphenylphosphine)-palladium dichloride (0.92 g, 1.3 mmol) in tetrahydrofuran (30 mL) was treated with a solution of diisobutylaluminum hydride (2.6 mL, 1.0 M, 2.6 mmol) in hexane. This mixture was allowed to stir for 15 minutes, then treated with the mesitylzinc chloride solution dropwise by cannula. Then, the chloropurine compound in 10 mL tetrahydrofuran solution was added by syringe, and the mixture was allowed to stir for 12 hours at ambient temperature. It was poured into water (150 mL), and acidified with dropwise addition of 1 N aqueous hydrochloric acid until the mixture is homogeneous. This is extracted with ethyl acetate (2×150 mL), and the extracts were washed in sequence with saturated brine solution (100 mL), combined, dried over anhydrous sodium sulfate, filtered and evaporated. The residue was separated by column chromatography (silica gel, 30:70 ethyl acetate-hexane) to afford the product, 9-benzyl-8-ethyl-6-(2,4,6-trimethylphenyl)purine (6.68 g, 18.7 mmol, 72%), as an off-white waxy solid, m.p. 121-122° C. 1H NMR (300 MHz, CDCl3): d 9.00 (1H, s), 7.38-7.31 (3H, m), 7.23-7.21 (2H, m), 6.96 (2H, s), 5.50 (2H, s), 2.84 (2H, q, J=7.6 Hz), 2.33 (3H, s), 2.06 (6H, s), 1.26 (3H, t, J=7.5 Hz). MS(NH3 -CI): m/e 359 (3), 358 (26), 357 (100).

reactant | mesitylmagnesium bromide | 39.1 mmol, 1.0 M, 39.1 mL | C1(=C(C(=CC(=C1)C)C)[Mg]Br)C
reactant | diisobutylaluminum hydride | 2.6 mmol, 1.0 M, 2.6 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | mesitylzinc chloride | [Cl-].C1(=C(C(=CC(=C1)C)C)[Zn+])C
reactant | chloropurine | ClC1=NC=C2NC=NC2=N1 | C5H3ClN4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 39.1 mmol, 5.32 g | [Cl-].[Zn+2].[Cl-]
catalyst | bis(triphenylphosphine)-palladium dichloride | 1.3 mmol, 0.92 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | 9-benzyl-8-ethyl-6-(2,4,6-trimethylphenyl)purine | 18.7 mmol, 6.68 g, 72% | C(C1=CC=CC=C1)N1C2=NC=NC(=C2N=C1CC)C1=C(C=C(C=C1C)C)C | C23H24N4
